US08455477B2
4-(benzyloxy)-6-bromopyrazolo[1,5-a]pyridine (1.27 g, 4.19 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.74 g, 8.38 mmol), tris(dibenzylideneacetone)dipalladium (0) (192 mg, 0.209 mmol), potassium fluoride (803 mg, 13.8 mmol), and tri-t-butylphosphonium tetrafluoroborate (122 mg, 0.419 mmol) were suspended in DMF (21 mL), sparged with argon for 10 minutes, then heated to 100° C. After 2 h, the reaction mixture was cooled to ambient temperature, diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine. The combined aqueous layers were saturated with NaCl and extracted with ethyl acetate (5×50 ml). The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient). Fractions containing pure 4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine were set aside and fractions that were impure by TLC analysis were combined and repurified in a similar manner to afford a second batch of pure 4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine.

reactant | 4-(benzyloxy)-6-bromopyrazolo[1,5-a]pyridine | 4.19 mmol, 1.27 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Br)N=CC2 | C14H11BrN2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 8.38 mmol, 1.74 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 13.8 mmol, 803 mg | [F-].[K+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.419 mmol, 122 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DMF | 21 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.209 mmol, 192 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(benzyloxy)-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2 | C18H16N4O
